* Knihovna modelù a makromodelù souèástek a integrovaných obvodù, které jsou 
* používány pøi poèítaèovém cvièení pøedmìtu BMPS - Modelování a poèítaèová simulace.
* 
* Sestaveno z aktuálních dostupných souborù výrobcù IO
*
* Poslední aktualizace 11.12.2010
*
*
*=====================================================
.model Q2N2222	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=100 Ne=1.307
+		Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=38p Mjc=.3416 Vjc=.75 Fc=.5 Cje=126p Mje=.377 Vje=.75
+		Tr=200n Tf=12n Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*=====================================================
.model Q2N2221	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=118.6 Ne=1.236
+		Ise=14.34f Ikf=.2524 Xtb=1.5 Br=7.134 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+		Tr=50.96n Tf=410.3p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*=====================================================
.model Q2N3904  NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*=====================================================
.model BC107A   NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=116.3 Bf=375.5 Ise=7.049f
+               Ne=1.281 Ikf=4.589 Nk=.5 Xtb=1.5 Br=2.611 Isc=121.7p Nc=1.865
+               Ikr=5.313 Rc=1.464 Cjc=5.38p Mjc=.329 Vjc=.6218 Fc=.5 Cje=11.5p
+               Mje=.2717 Vje=.5 Tr=10n Tf=451p Itf=6.194 Xtf=17.43 Vtf=10)
*=====================================================
.model M2N6661  NMOS(Level=3 Gamma=0 Delta=0 Eta=0 Theta=0 Kappa=0.2 Vmax=0 Xj=0
+               Tox=2u Uo=600 Phi=.6 Kp=1.05u W=.18 L=2u Rs=20m Vto=2 Rd=0
+               Rds=9MEG Cgso=15.45p Cgdo=8.947p Cbd=108.7p Mj=.5 Pb=.8 Fc=.5
+               Rg=209.5 Is=10f N=1 Rb=1m)
*=====================================================
.model Q2N1420	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307
+		Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=9.393p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+		Tr=46.91n Tf=410p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*		National	pid=19		case=TO5
*		88-09-07 bam	creation
*=====================================================
.model Q2N2218	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=118.6 Ne=1.236
+		Ise=14.34f Ikf=.2524 Xtb=1.5 Br=7.134 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+		Tr=50.96n Tf=410.3p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*		National	pid=19		case=TO5
*		88-09-07 bam	creation
*=====================================================
.model Q2N1132	PNP(Is=650.6E-18 Xti=3 Eg=1.11 Vaf=115.7 Bf=70.35 Ne=1.829
+		Ise=180.5f Ikf=1.079 Xtb=1.5 Br=4.146 Nc=2 Isc=0 Ikr=0 Rc=.715
+		Cjc=29.52p Mjc=.5383 Vjc=.75 Fc=.5 Cje=19.82p Mje=.3357 Vje=.75
+		Tr=119.9n Tf=757.7p Itf=.65 Vtf=5 Xtf=1.7 Rb=10)
*		National	pid=63		case=TO5
*		88-09-09 bam	creation
*=====================================================
.model Q2N1566	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=173.4 Ne=1.272
+		Ise=14.34f Ikf=.2689 Xtb=1.5 Br=6.458 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=9.393p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+		Tr=48.39n Tf=409.7p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*		National	pid=19		case=TO5
*		88-09-07 bam	creation
*=====================================================
.model Q2N956	NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307
+		Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=9.393p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+		Tr=46.91n Tf=410p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
*		National	pid=19		case=TO18
*		88-09-07 bam	creation
*=====================================================
.model Q2N1711	NPN(Is=14.1f Xti=3 Eg=1.11 Vaf=100 Bf=213.7 Ne=1.5 Ise=0
+		Ikf=.75 Xtb=1.5 Br=4.96 Nc=2 Isc=0 Ikr=0 Rc=.7 Cjc=15.69p
+		Mjc=.3603 Vjc=.75 Fc=.5 Cje=55.06p Mje=.1553 Vje=.75 Tr=815.2p
+		Tf=499.1p Itf=1 Vtf=5 Xtf=55 Rb=10)
*		Motorola	pid=2N3019	case=TO39
*		88-09-15 bam	creation
*=====================================================
.model D1N4740	D(Is=1.945f Rs=2.302 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=82p M=.3649
+		Vj=.75 Fc=.5 Isr=2.04n Nr=2 Bv=10 Ibv=.35034 Nbv=.84137
+		Ibvl=10m Nbvl=.17757 Tbv1=650u)
*		Motorola	pid=1N4740	case=DO-41
*		89-9-19 gjg
*		Vz = 10 @ 25mA, Zz = 24 @ 1mA, Zz = 7.25 @ 5mA, Zz = 2.9 @ 20mA
*=====================================================
.model D02CZ10  D(Is=9.149p N=1.461 Rs=.347 Ikf=28.61 Xti=3 Eg=1.11 Cjo=402.8p
+               M=1.533 Vj=5 Fc=.5 Isr=115.5n Nr=2 Bv=10.14 Ibv=1.416 Tt=5n)
*=====================================================
.model D02CZ11  D(Is=9.149p N=1.461 Rs=.347 Ikf=28.61 Xti=3 Eg=1.11 Cjo=402.8p
+               M=1.533 Vj=5 Fc=.5 Isr=109.1n Nr=2 Bv=11.14 Ibv=1.416 Tt=5n)
*=====================================================
.model D02bz4_7 D(Is=10.01E-21 N=2.174 Rs=1.105 Ikf=10E-21 Xti=3 Eg=1.11 Cjo=1p
+               M=.3333 Vj=.75 Fc=.5 Isr=753.9n Nr=2 Bv=4.674 Ibv=5.516m
+               Tt=14.43n)
*=====================================================
.model D1N750 	D(Is=880.5E-18 Rs=.25 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=175p M=.5516
+  		Vj=.75 Fc=.5 Isr=1.859n Nr=2 Bv=4.7 Ibv=20.245m Nbv=1.6989
+  		Ibvl=1.9556m Nbvl=14.976 Tbv1=-21.277u)
*=====================================================
*
*
*//////////////////////////////////////////////////////////
*LF411 LOW OFFSET, LOW DRIFT JFET INPUT OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |
*                 |   |   |   |   |
.SUBCKT LF411     1   2  99  50  28
*
*Features:
*Fast settling time (.01%) =           2uS
*High bandwidth =                     3MHz
*High slew rate =                   10V/uS
*Low offset voltage =                 .5mV
*Low supply current =                1.8mA
*
****************INPUT STAGE************** 
*
IOS 2 1 25.0P
*^Input offset current
CI1 1 0 3P
CI2 2 0 3P
R1 1 3 1E12
R2 3 2 1E12
I1 99 4 1.0M
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 650
R4 6 50 650
*Fp2=28 MHZ
C4 5 6 4.372P 
*
***********COMMON MODE EFFECT***********
*
I2 99 50 800UA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 .8E-3 1
*Input offset voltage.^
R8 99 49 80K
R9 49 50 80K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 5 6 20E-3
R5 98 9 10MEG
VA3 9 11 0
*Fp1=18 HZ
C3 98 11 857.516P
*
***************POLE STAGE***************
*
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.305E-15
*
*********COMMON-MODE ZERO STAGE*********
*
G4 98 16 3 49 1E-8
L2 98 17 144.7M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 50
V5  28 25 0.646V
D4  25 15 DX
V4  24 28 0.646V
D3  15 24 DX
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.183E-3 VTO=-.65 IS=50E-12)
*
.ENDS


*//////////////////////////////////////////////////////////
* REF01 SPICE MACROMODEL                     5/91, Rev. A
*//////////////////////////////////////////////////////////
*  NODE NUMBERS
*                  VIN
*                  |  GND
*                  |  |  TRIM
*                  |  |  |  VOUT
*                  |  |  |  |
.SUBCKT REF01_AD  2  4  5  6
*
* 1.23V REFERENCE
*
I1     4  10   1.22889E-6
R1     10  4   1000E3  TC=3E-6
G1     4  10   2  4  73.9E-12
F1     4  10   VS  61.5E-9
*
* INTERNAL OP AMP
*
G2     4  11   10  19  2E-3
R2     4  11   150E6
C1     4  11   2.1E-10
D1     11 12   DX
V1     2  12   1.3
*
* SECONDARY POLE
*
G3     4  13   11  0  1E-6
R3     4  13   1E6
C2     4  13   1.2E-13
*
* OUTPUT STAGE
*
ISY    2   4   0.38E-3
FSY    2   4   V1  -1
G4     4  14   13  0  25E-6
R4     4  14   40E3
R7     17 19   14.2602E3
R8     19  4   2E3
R9     19  5   50E3
R10    5   4   1E12
Q1     16 14   17   QN
VS     18 17   DC 0
L1     18  6   1E-7
*
* OUTPUT CURRENT LIMIT
*
Q2     15  2   16  QN
R6     2  16   21
R5     2  15   18E3
C3     2  15   1E-6
G5     14  4   2  15  1
*
.MODEL  QN  NPN(IS=1E-15  BF=1000)
.MODEL  DX  D(IS=1E-15)
.ENDS
*$


*//////////////////////////////////////////////////////////
*AD8001A SPICE Macro Model       9/94, Rev. A
*//////////////////////////////////////////////////////////
*
* Node assignments
*                  Non-inverting input
*                  | Inverting input
*                  | | Positive supply
*                  | | | Negative supply
*                  | | | | Output
*                  | | | | |
.SUBCKT AD8001a/AD 3 2 7 4 6
*
* INPUT STAGE
*
CIN 3 4 1.5E-12
GB1 7 3 POLY(1) 3 100 (3E-6,0.2E-6)
EOS 9 3 POLY(1) 23 100 (2E-3,1)
Q1 7 9 10 QN
I1 10 4 DC 2.568E-4
I2 7 11 DC 2.568E-4
Q2 4 9 11 QP
R1 7 14 1E3
V1 7 17 DC 6.96561E-2
D1 17 14 DX
Q3 14 11 15 QN
Q4 16 10 15 QP
R2 16 4 1E3
D2 16 18 DX
V2 18 4 DC 6.96561E-2
LIN- 15 2 0.1E-9
GB2 7 2 POLY(1) 3 100 (5E-6,0.3E-6)
CS1 7 2 0.03E-12
CS2 2 4 0.03E-12
*
* GAIN STAGE AND DOMINANT POLE AT 230 kHz
*
EREF 100 0 POLY(2) (7,0) (4,0) (0,0.5,0.5)
G1 100 19 7 14 1E-3
G2 19 100 16 4 1E-3
R3 19 100 1.24E6
C1 19 100 5.580468E-13
V3 7 20 DC 2.3747
D3 19 20 DX
D4 21 19 DX
V4 21 4 DC 2.3747
*
* COMMON-MODE REJECTION NETWORK WITH ZERO AT 22 MHz
*
ECM 100 22 3 100 19.95
RCM1 22 23 1E4
CCM 22 23 7.2343E-13
RCM2 23 100 1
*
* POLE AT 800 MHz
*
G4 100 24 19 100 1E-6
R5 24 100 1E6
C3 24 100 1.9894368E-16
*
* POLE AT 4 GHz
*
G5 100 25 24 100 1E-6
R6 25 100 1E6
C4 25 100 3.9788736E-17
*
* OUTPUT STAGE
*
VW 25 30 DC 0
*
FSY 7 4 POLY(2) VSY1 VSY2 (4.2326E-3,1,1)
GSY 100 35 33 30 4.6728972E-2
DSY1 35 36 DX
VSY1 36 100 DC 0
DSY2 37 35 DX
VSY2 100 37 DC 0
DSC1 30 31 DX
VSC1 31 33 DC 0.62526
DSC2 32 30 DX
VSC2 33 32 DC 0.62526
GO1 33 7 7 30 4.6728972E-2
RO1 7 33 21.4
GO2 4 33 30 4 4.6728972E-2
RO2 33 4 21.4
LO 33 6 7E-9
*
.MODEL QN NPN(BF=100 IS=1E-15)
.MODEL QP PNP(BF=100 IS=1E-15)
.MODEL DX D(IS=1E-15)
*
.ENDS AD8001A


*//////////////////////////////////////////////////////////
* Model for 741 op-amp
*//////////////////////////////////////////////////////////
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends

*//////////////////////////////////////////////////////////
* Model for LT1113 By Linear Technology
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |  inverting input
*                   |  |  positive power supply
*                   |  |  |  negative power supply
*                   |  |  |  |  output
*                   |  |  |  |  |
.SUBCKT  LT1113/LT  1  2  3  4  5
*
GRP1 1 111 1 111 0.1
GRP2 2 112 2 112 0.1
DIP1 114 111 DX
DIP2 115 112 DX
DIP3 116 114 DX
DIP4 116 115 DX
VCM 116 4 DC 4.325
RCMP 114 117 10000
ECMP 117 4 111 4 1.0
RCMN 115 118 10000
ECMN 118 4 112 4 1.0
CIN 111 112 1.2711e-11
GRIN 111 112 111 112 1e-11
M1 11 112 10 10 M1 L=100U W=100U
M2 12 113 10 10 M2 L=100U W=100U
RD1 3 11 1904.4 TC=-8.1097e-5
RD2 3 12 1904.4 TC=8.1097e-5
DI1 113 3 DI1
DI2 112 3 DI2
C1 11 12 5.2232e-12
IEE 10 4 DC 0.0010502
GA 60 99 11 12 0.00052509
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 5.565e-8
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 5.565e-8
RRu 605 0 9.2679
VRu 605 0 DC 0
FRu 99 60 VRu 1
GCM1 99 20 POLY(2) 111 99 112 99 0 0.0005 0.0005
RCM1 21 99 1000
RCM2 20 99 1000000
LCM 20 21 0.01061
ECM 113 111 20 99 1.7783e-5
RP1 601 99 1904.8
CP1 60 601 3.3423e-11
RP11 60 99 10000
GP1 99 61 60 99 0.0001
RP2 611 99 14545
LP2 61 611 0.00092599
RP22 61 99 32000
GP2 99 6 61 99 0.0001
R2 6 99 1000
C2 6 7 2.3754e-10
GB 7 99 6 99 6381.2
R01 7 99 70
R02 7 50 0.1
R03 50 5 69.9
R04 5 99 1.0000e+012
VC 53 50 DC 2.1
VE 54 50 DC -1.7
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1
GVLN 99 60 58 4 1
ECLP 91 0 7 50 500
ECLN 92 0 7 50 500
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 132.59
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 0.0042498
GV 31 0 7 50 10
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 10.0
EGV 31 32 POLY(1) 3 4 -0.85 1.0
.MODEL DX D IS=8e-16 RS=0 XTI=0
.MODEL M1 NMOS LEVEL=3 KP=0.095221 VTO=1.000258 KF=7.9898e-28
.MODEL M2 NMOS LEVEL=3 KP=0.095221 VTO=0.9997418 KF=7.9898e-28
.MODEL DI1 D IS=3.6931e-10 EG=0.25981 XTI=3
.MODEL DI2 D IS=3.3187e-10 EG=0.26997 XTI=3
.MODEL DRI D IS=8e-16 KF=3.1436e-27 RS=0 XTI=0
.ENDS LT1113


*//////////////////////////////////////////////////////////
* Model for OPA860_OTA By Texas Instruments
*//////////////////////////////////////////////////////////
*
* CONNECTIONS:
*                         B Input
*                         |  C Output
*                         |  |   E Input/Output
*                         |  |   |    Quiescent Current Adjust 
*                         |  |   |    |    Positive Supply
*                         |  |   |    |     |   Negative Supply
*                         |  |   |    |     |   | 
.SUBCKT OPA860_OTA        B  C   E  IQADJ   V+  V- 

.PARAM A_Q35 = 1.25
.PARAM A_Q46 = {A_Q35*1.6}
.PARAM A_Q78 = {A_Q35*3.2}
.PARAM A_Q1011 = {A_Q35*0.8}

V_V1         b1 V- DC 0.10813096  
R_R11         B 23a  50  
R_R10         B 23  50  
R_R6         b4 b3  329  
R_R17         V- 29  250  
R_R12         V- 25  150  
R_R4         IQADJ b4  220  
R_R5         V- b4  30k  
R_R21         V- 39  50  
C_C2         C 37  1.85pF  
R_R35         C 37  100K  
C_C3         39 C  1.85pF  
R_R36         39 C  100K  
R_R13         26 V+  150  
R_R8         21 V+  250  
R_R20         37 V+  50  
R_R18         CM1 V+  50  
R_R19         V- CM3  50  
R_R14         22 30  125  
R_R15         28 31  110  
X_F1    b1 b2 +Io V- OPA861_Model_F1 
X_F2    b2 b3 V+ -Io OPA861_Model_F2 
Q_Q3         22 +Io 21 PNP6 {A_Q35}
Q_Q4         +Io +Io 26 PNP6 {A_Q46}
Q_Q1         -Io 23 22 PNP6 0.25
Q_Q2         +Io 23a 28 NPN6 0.25
Q_Q5         -Io -Io 25 NPN6 {A_Q35}
Q_Q6         28 -Io 29 NPN6 {A_Q46}
G_G4         C 39 CM3 V- 0.02
G_G3         37 C V+ CM1 0.0201190476
V_V5         CM1 33 DC .792  
V_V6         35 CM3 DC .792  
Q_Q10         30 30 99 NPN6 {A_Q1011}
Q_Q11         31 31 99 PNP6 {A_Q1011}
Q_Q8         35 31 E PNP6 {A_Q78}
Q_Q7         33 30 E NPN6 {A_Q78}

.MODEL NPN6 NPN
+ IS=70.40E-18 BF=157 NF=1.0 VAF=70 IKF=39.750E-3 ISE=32.190E-15 NE=2
+ BR=.7614 NR=1.0E+00 VAR=1.4520 IKR=81.720E-3 ISC=7.6180E-21 NC=1.8470
+ RE=5.537E+00 RB=3.346E+01 IRB= 0.000E+00 RBM= 2.400E+00 RC=2.156E+01
+ CJE=120.20E-15 VJE=.7591 MJE=.5406 CJC=133.80E-15 VJC=.6666
+ MJC=.4509 XCJC=8.450E-02 TR = 4.000E-11 CJS= 3.180E-14 FC=.827
+ TF=12.130E-12 XTF=2.0490 VTF=1.8130 ITF=42.930E-3 TR=40.000E-12 
+ CJS= 3.180E-14 EG=1.1840 XTB=1.0220 XTI=1.7800 KF = 17.500E-15 
+ AF = 1.000E+00 FC = 8.273E-01

.MODEL PNP6 PNP
+ IS = 2.015E-16 BF = 1.418E+02 NF = 1.000E+00 VAF= 5.058E+01
+ IKF= 1.085E-01 ISE= 2.233E-15 NE = 1.505E+00 BR = 3.252E+01
+ NR = 1.050E+00 VAR= 1.093E+00 IKR= 5.000E-05 ISC= 6.621E-16
+ NC = 1.150E+00 RB = 3.346E+01 IRB= 0.000E+00 RBM= 2.40e+00
+ RE = 5.537E+00 RC = 2.156E+01 CJE= 1.202E-13 VJE= 7.320E-01
+ MJE= 4.930E-01 TF = 1.303E-11 XTF= 3.500E+01 VTF= 3.259E+00
+ ITF= 2.639E-01 PTF= 0.000E+00 CJC= 1.595E-13 VJC= 7.743E-01
+ MJC= 5.000E-01 XCJC=8.504E-02 TR = 1.500E-10 CJS= 7.620E-13
+ VJS= 9.058E-01 MJS= 4.931E-01 XTB= 1.732E+00 EG = 1.184E+00
+ XTI= 2.000E+00 KF = 10.890E-16 AF = 1.000E+00 FC = 8.500E-01

.ENDS    OPA860_OTA

.subckt OPA861_Model_F1 1 2 3 4  
F_F1         3 4 VF_F1 5.230536
VF_F1         1 2 0V
.ends OPA861_Model_F1

.subckt OPA861_Model_F2 1 2 3 4  
F_F2         3 4 VF_F2 5.15646
VF_F2         1 2 0V
.ends OPA861_Model_F2



*//////////////////////////////////////////////////////////
* Model for CITA - one active element
*//////////////////////////////////////////////////////////
*
.SUBCKT CITA N X+ X- Z Vp Vm G

Radj1 Vm Adj1 330
Radj2 Vm Adj2 330
Radj3 Vm Adj3 330

Rg 2 1 1k

X1 G Z N Adj1 Vp Vm OPA860_OTA
X2 Z X+ 1 Adj2 Vp Vm OPA860_OTA
X3 G X- 2 Adj3 Vp Vm OPA860_OTA

.ENDS CITA